US04855310
After stirring a mixture of 60 g of 2,5-dimercapto-1,3,4-thiadiazole, 25 g of potassium hydroxide, and 750 ml of ethanol for one hour at 70° C., 68 g of ethyl α-bromoacetate was added to the mixture and then the resultant mixture was refluxed for 2 hours. After cooling the reaction mixture, insoluble matters were filtered off and the filtrate thus formed was concentrated under reduced pressure. To the residue thus formed was added 600 ml of 10% sodium hydroxide. The mixture was stirred for one hour at 80° C. After cooling, the reaction mixture was acidified by the addition of concentrated hydrochloric acid (below pH 1) and crystals thus formed were collected by filtration, washed with water, and recrystallized from acetone to provide 60 g of [(5-mercapto-1,3,4-thiadiazol-2-yl)thio]acetic acid.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 60 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | ethyl α-bromoacetate | 68 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 600 ml | [OH-].[Na+]
reactant | hydrochloric acid | pH 1 | Cl | ClH
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | [(5-mercapto-1,3,4-thiadiazol-2-yl)thio]acetic acid | 60 g | SC1=NN=C(S1)SCC(=O)O | C4H4N2O2S3
